### PR TITLE
[Merged by Bors] - feat(SetTheory/Ordinal/Basic): added ord_zero_iff lemma

### PR DESCRIPTION
**Pull request by YnirPaz**
Prove `ord_zero_iff`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/SetTheory/Ordinal/Basic.lean [hunk 1]
```diff
@@ -1277,6 +1277,9 @@ theorem ord_injective : Injective ord := by
   intro c c' h
   rw [← card_ord c, ← card_ord c', h]
 
+theorem ord_zero_iff {a : Cardinal} : a.ord = 0 ↔ a = 0 :=
+  ⟨fun h ↦ ord_injective (h ▸ ord_zero.symm), fun h ↦ h ▸ ord_zero⟩
```
Comment (urkud) [inline Mathlib/SetTheory/Ordinal/Basic.lean:1281]:
```suggestion
@[simp]
theorem ord_inj {a b : Cardinal} : a.ord = b.ord ↔ a = b :=
  ord_injective.eq_iff

@[simp]
theorem ord_eq_zero {a : Cardinal} : a.ord = 0 ↔ a = 0 :=
  ord_injective.eq_iff' ord_zero

@[simp]
theorem ord_eq_one {a : Cardinal} : a.ord = 1 ↔ a = 1 :=
  ord_injective.eq_iff' ord_one
```

**Comment by urkud** [comment]
Thanks! :tada:
bors merge
